US06121271
4-(2,3-Dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diisopropyl-phenol
Using (2-benzyl-4,5-dimethyl-thiophen-3-yl)-(3,5-diisopropyl-4-methoxy-phenyl)-methanone (4.3 g, 10.1 mmol), boron tribromide (3.1 mL, 32.4 mmol), and methylene chloride (60 mL) the title compound was prepared according to the procedure in Example 2, step 2 to give 1.2 g (30%) as a yellow foam; NMR (DMSO-d6) δ 8.42 (s, 1 H), 8.24 (s, 1 H), 7.94 (d, 1 H), 7.48-7.32 (m, 3 H), 6.90 (s, 2 H), 3.45-3.35 (m, 2 H), 2.38 (s, 3 H), 1.57 (s, 3 H), 1.15 (d, 12 H). MS(-ESI), [M-H] 387.

reactant | (2-benzyl-4,5-dimethyl-thiophen-3-yl)-(3,5-diisopropyl-4-methoxy-phenyl)-methanone | 10.1 mmol, 4.3 g | C(C1=CC=CC=C1)C=1SC(=C(C1C(=O)C1=CC(=C(C(=C1)C(C)C)OC)C(C)C)C)C | C27H32O2S
reactant | boron tribromide | 32.4 mmol, 3.1 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,3-Dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diisopropyl-phenol | CC1=C(C2=C(S1)C=C1C=CC=CC1=C2C2=CC(=C(C(=C2)C(C)C)O)C(C)C)C | C26H28OS
